US07244766B2
Preparation 91: 4-[(Allylamino)methyl]-2,6-dichlorophenol
Prepared from 3,5-dichloro-4-hydroxybenzaldehyde and allylamine using the method of preparation 90 to give the title compound as a colourless oil.

reactant | 3,5-dichloro-4-hydroxybenzaldehyde | ClC=1C=C(C=O)C=C(C1O)Cl | C7H4Cl2O2
reactant | allylamine | C(C=C)N | C3H7N
product | 4-[(Allylamino)methyl]-2,6-dichlorophenol | C(C=C)NCC1=CC(=C(C(=C1)Cl)O)Cl | C10H11Cl2NO
